US04224203
Barium Tridecanephosphonate (1:1)
Tridecylphosphonic acid disodium salt 123 g (0.4 mole), distilled water 500 ml and ethanol 30 ml were charged into a reaction flask and dissolved by stirring at room temperature. To this solution, 20% barium chloride aq. solution 416 g (0.4 mole) was added and allowed to react for one hour at room temperature. The compound precipitated was filtered off, repeatedly washed with water until free of sodium chloride and dried to obtain 154 g of white powder.

reactant | Tridecylphosphonic acid disodium salt | 0.4 mole, 123 g | [Na+].[Na+].C(CCCCCCCCCCCC)P([O-])([O-])=O
reactant | water | 500 ml | O | H2O
reactant | barium chloride | 0.4 mole, 416 g | [Cl-].[Ba+2].[Cl-]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | Barium Tridecanephosphonate | 154 g, Yield: 96% | C(CCCCCCCCCCCC)P([O-])(=O)[O-].[Ba+2] | InChI=1S/C13H29O3P.Ba/c1-2-3-4-5-6-7-8-9-10-11-12-13-17(14,15)16;/h2-13H2,1H3,(H2,14,15,16);/q;+2/p-2
